US07713994B2
4-{[4-(2-Hydroxymethyl-pyrrolidin-1-ylmethyl)-phenylamino]-methylene}-6-thiophen-3-yl-4H-isoquinoline-1,3-dione
To a solution of 4-{[4-(2-Hydroxymethyl-pyrrolidin-1-ylmethyl)-phenylamino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione (200 mg, 0.40 mmol) in N,N-dimethylformamide (10 mL) were added 3-thienylboronic acid (120 mg, 0.94 mmol) and Na2CO3 (216 mg, 2.0 mmol). Pd2(dba)3.CHCl3 (20 mg, 0.02 mmol) and P(tBu)3.HBF4 (19 mg, 0.06 mmol) were then added. The mixture is then degassed and heated at 100° C. for 1 h. The N,N-dimethylformamide is then evaporated under reduced pressure and the residue is taken up in EtOAc and H2O. The EtOAc layer is dried and evaporated. The residue, which resulted, is subjected to chromatography to provide the desired product (90 mg, 49%). MS (ESI): 460.2 (M+1)+1

reactant | 4-{[4-(2-Hydroxymethyl-pyrrolidin-1-ylmethyl)-phenylamino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione | 0.40 mmol, 200 mg | OCC1N(CCC1)CC1=CC=C(C=C1)NC=C1C(NC(C2=CC=C(C=C12)I)=O)=O | C22H22IN3O3
reactant | 3-thienylboronic acid | 0.94 mmol, 120 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 2.0 mmol, 216 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CHCl3 | 0.02 mmol, 20 mg | C(Cl)(Cl)Cl | CHCl3
reactant | P(tBu)3 | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | HBF4 | 0.06 mmol, 19 mg | [H+].[B-](F)(F)(F)F
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-{[4-(2-Hydroxymethyl-pyrrolidin-1-ylmethyl)-phenylamino]-methylene}-6-thiophen-3-yl-4H-isoquinoline-1,3-dione | 90 mg, 49% | OCC1N(CCC1)CC1=CC=C(C=C1)NC=C1C(NC(C2=CC=C(C=C12)C1=CSC=C1)=O)=O | C26H25N3O3S
